US07166613B2
7,8-Dihydro-1H-furo[2,3-g]indole
A solution of 2,3,7,8-tetrahydro-1H-furo[2,3-g]indole-2,3-dione (9.05 g, 47.9 mmol) in tetrahydrofuran (100 mL) was stirred at −20° C. under an argon atmosphere. Solid sodium borohydride was added portionwise and the reaction was stirred for 20 min at −20° C. Boron trifluoride etherate (11.9 mL, 96 mmol) was added dropwise over 90 min, then the mixture was warmed to 0° C. and stirred for 1 h. The reaction was quenched with water (100 mL) and the solution was extracted with ethyl acetate (3×150 mL). The organic extracts were combined, dried (magnesium sulphate) and concentrated in vacuo to afford a yellow solid which was purified by column chromatography [SiO2; heptane-ethyl acetate (5:1)] to afford the title compound (3.2 g, 42.8%); analytical data as described above.

reactant | 2,3,7,8-tetrahydro-1H-furo[2,3-g]indole-2,3-dione | 47.9 mmol, 9.05 g | N1C(C(C2=CC=C3C(=C12)CCO3)=O)=O | C10H7NO3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | Boron trifluoride etherate | 96 mmol, 11.9 mL | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 7,8-Dihydro-1H-furo[2,3-g]indole | 3.2 g, 42.8% | N1C=CC2=CC=C3C(=C12)CCO3 | C10H9NO
